US07994209B2
(S)-3-[(S)-1-(2,3-Dichlorophenoxy)butyl]pyrrolidine
(S)-3-((S)-1-Hydroxybutyl)pyrrolidine-1-carboxylic acid t-butyl ester (50 mg, 0.2 mmol) was dissolved in DMF (1.0 mL, 13 mmol). NaH (5.9 mg, 246 μmmol) was slowly added and the mixture was stirred at room temperature for 15 minutes. 1,2-Dichloro-3-fluorobenzene (67.8 mg, 411 μmmol) was added. The mixture was stirred at 70° C. for 3 hours, then concentrated. 1.2M HCl in EtOH (1.0 mL, 1.2 mmol) was added, and the mixture was stirred overnight. The product was concentrated and purified by preparative HPLC to yield the title compound as a mono-TFA salt (19 mg, 100% purity). MS m/z: [M+H]+ calcd for C14H19Cl2NO, 288.08; found 288.0.

reactant | (S)-3-((S)-1-Hydroxybutyl)pyrrolidine-1-carboxylic acid t-butyl ester | 0.2 mmol, 50 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H](CCC)O | C13H25NO3
reactant | DMF | 13 mmol, 1.0 mL | CN(C)C=O | C3H7NO
reactant | NaH | 5.9 mg | [H-].[Na+]
reactant | 1,2-Dichloro-3-fluorobenzene | 67.8 mg | ClC1=C(C(=CC=C1)F)Cl | C6H3Cl2F
reactant | HCl | 1.2M | Cl | ClH
reactant | EtOH | 1.2 mmol, 1.0 mL | CCO | C2H6O
product | (S)-3-[(S)-1-(2,3-Dichlorophenoxy)butyl]pyrrolidine | ClC1=C(O[C@@H](CCC)[C@@H]2CNCC2)C=CC=C1Cl | C14H19Cl2NO
